US07816522B2
(21i) 5-{(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one
To a solution of 6.02 g of [2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester in 50 ml of DMF there were added 1.24 g of 2-hydrazinopyrimidine and 1.9 ml of triethylamine, and the mixture was stirred overnight at 85° C. under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 50 ml of methanol and 5 ml of acetic acid. After then adding 3.4 g of sodium cyanotrihydroborate to the reaction mixture, it was stirred at room temperature. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (3.317 g) as a light yellow solid.

reactant | [2-(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 6.02 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(COCO2)C1)OC)SC)=O | C23H22N4O6S
reactant | 2-hydrazinopyrimidine | 1.24 g | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-{(8-methoxy-4H-benzo[1,3]dioxin-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | 3.317 g | COC1=CC(=CC=2COCOC21)C(C=2NC(N(N2)C2=NC=CC=N2)=O)NC2=CC=C(C=C2)C2=NOC(=N2)C | C25H22N8O5
